US07696240B2
Using general procedure A (Exp. 1.1), 7-fluoro-3,4-dihydro-2H-naphthalen-1-one (Lit. 16) was reacted with MeMgI to give 6-fluoro-4-methyl-1,2-dihydro-naphthalene as a colorless oil.

reactant | 7-fluoro-3,4-dihydro-2H-naphthalen-1-one | FC1=CC=C2CCCC(C2=C1)=O | C10H9FO
reactant | MeMgI | C[Mg]I
product | 6-fluoro-4-methyl-1,2-dihydro-naphthalene | FC=1C=C2C(=CCCC2=CC1)C | C11H11F
